US08008497B2
6-[4-[N-(2-Dimethylaminoethyl)-N-methylaminocarbonyloxy]-2-methoxyphenyl]-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 4-2)
A mixture of 6-(4-hydroxy-2-methoxyphenyl)-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 3-2, 42.8 mg, 0.0952 mmol), 1,1′-carbonyldiimidazole (47.7 mg, 0.294 mmol) and 4-dimethylaminopyridine (1.7 mg, 0.014 mmol) was dissolved in anhydrous tetrahydrofuran (1 mL), and then the mixture was stirred at room temperature for 1 hour. N,N,N′-trimethylethylenediamine (25 μL, 0.192 mmol) was added thereto, and then the mixture was stirred at room temperature for 1 hour. The reaction mixture was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (5.8 mg) as a colorless amorphous product. (Yield 11%)

reactant | 6-(4-hydroxy-2-methoxyphenyl)-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 0.0952 mmol, 42.8 mg | OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC(=O)C=1SC(=CC1)C)OC | C26H27NO4S
reactant | 1,1′-carbonyldiimidazole | 0.294 mmol, 47.7 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N,N′-trimethylethylenediamine | 0.192 mmol, 25 μL | CN(CCNC)C | C5H14N2
catalyst | 4-dimethylaminopyridine | 0.014 mmol, 1.7 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 6-[4-[N-(2-Dimethylaminoethyl)-N-methylaminocarbonyloxy]-2-methoxyphenyl]-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 5.8 mg, Yield 11% | CN(CCN(C)C(=O)OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC(=O)C=1SC(=CC1)C)OC)C | C32H39N3O5S
